US03950526
To a solution of 14.3 g of 2-amino-5-chlorophenyl cyclohexyl ketone and 6.0 g of triethylamine in the mixture of 100 ml of ether and 30 ml of methylene chloride was added dropwise with ice-cooling 11.0 g of trichloroacetyl chloride. After the mixture was stirred at room temperature for 2 hours, the organic layer was washed with water and dried over anhydrous sodium sulfate. Then the solvent was removed under reduced pressure to give oily residue. The residue was crystallized from ether to obtain 18.5 g of 2-trichloroacetamido-5-chlorophenyl cyclohexyl ketone as light yellow crystals, m.p. 93.0°-93.5°C.

reactant | 2-amino-5-chlorophenyl cyclohexyl ketone | 14.3 g | C1(CCCCC1)C(=O)C1=C(C=CC(=C1)Cl)N | C13H16ClNO
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | trichloroacetyl chloride | 11.0 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-trichloroacetamido-5-chlorophenyl cyclohexyl ketone | 18.5 g | C1(CCCCC1)C(=O)C1=C(C=CC(=C1)Cl)NC(C(Cl)(Cl)Cl)=O | C15H15Cl4NO2
